US08258130B2
2-Phenyl-pyrimidine-5-carboxylic acid pyrrolidin-1-yl-amide
Following procedures similar to those of Example 64 but substituting pyrrolidin-1-ylamine hydrochloride for 3-{3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester, there is prepared 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid pyrrolidin 1-yl-amide (67%) as a solid. MS: 269 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.70-2.20 (m, 4H), 2.70-3.46 (m, 4H), 7.55 (s, 3H), 8.42-8.67(m, 2H), 9.14-9.49 (t, 2H).

reactant | pyrrolidin-1-ylamine hydrochloride | Cl.N1(CCCC1)N
reactant | 3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester | COC(CCC=1C(N(C(NC1)=O)N)=O)=O | C8H11N3O4
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid pyrrolidin 1-yl-amide | N1(CCCC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C15H15FN4O
product | 2-Phenyl-pyrimidine-5-carboxylic acid pyrrolidin-1-yl-amide | N1(CCCC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C15H16N4O
